data/oMe_Silver.jsonl
{"reaction_id": "NR-221_1-c4ccc(Cl)cc4_2-c4ccc([N+](=O)[O-])cc4","level": "hard","name": "Pictet-Spengler Reaction","reactants_smiles": ["NCCC1=CNC2=C1C=CC=C2","O=C(c4ccc(Cl)cc4)(c4ccc([N+](=O)[O-])cc4)"],"products_smiles": ["C1(c4ccc(Cl)cc4)(c4ccc([N+](=O)[O-])cc4)NCCC2=C1NC3=C2C=CC=C3"],"conditions": null,"mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c4ccc(Cl)cc4)(c4ccc([N+](=O)[O-])cc4)=[NH+]C(CC1=CNC2=C1C=CC=C2)","step_weight": 0,"rationale": "The amine nitrogen attacks the electrophilic carbonyl carbon, facilitated by the electron-withdrawing effect of c4ccc(Cl)cc4 and c4ccc([N+](=O)[O-])cc4, forming an iminium ion stabilized by resonance with the nitrogen."},{"step": 2,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C1(c4ccc(Cl)cc4)(c4ccc([N+](=O)[O-])cc4)NCCC2C1=[NH+]C3=C2C=CC=C3","step_weight": 0,"rationale": "The electron-rich aromatic ring attacks the iminium carbon, driven by the strong electrophilicity of the iminium and the proximity in the tethered intermediate, favoring intramolecular cyclization."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1(c4ccc(Cl)cc4)(c4ccc([N+](=O)[O-])cc4)NCCC2=C1NC3=C2C=CC=C3","step_weight": 0,"rationale": "Deprotonation adjacent to the nitrogen restores aromaticity, a thermodynamically favored process, stabilizing the fused heteroaromatic system."}],"description": "The Pictet–Spengler reaction proceeds via iminium ion formation from the amine and carbonyl, followed by intramolecular electrophilic aromatic substitution to form the fused heterocycle, and concludes with deprotonation to restore aromaticity and yield the stable product."}
{"reaction_id": "NR-052_1-CC_2-CC_3-c1ccccc1","name": "Curtius Rearrangement","level": "medium","reactants_smiles": ["C(CC)(CC)(c1ccccc1)C(=O)N=[N+]=[N-]"],"products_smiles": ["C(CC)(CC)(c1ccccc1)N=C=O"],"conditions": "Heat","mechnism_text_description": "The Curtius rearrangement is the thermal decomposition of an acyl azide to form an isocyanate with the loss of nitrogen gas (N2). The reaction typically proceeds via a concerted mechanism where the alkyl or aryl group (R) attached to the carbonyl carbon migrates to the nitrogen atom simultaneously with the expulsion of dinitrogen. This migration results in the formation of an isocyanate.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(CC)(CC)(c1ccccc1)N=C=O","step_weight": 0,"rationale": "Thermal energy promotes a concerted migration of R from carbon to nitrogen, facilitated by the excellent leaving ability of N₂ and stabilization of the developing positive charge on nitrogen, yielding the thermodynamically favored isocyanate."}],"description": "Upon heating, the acyl azide undergoes a concerted 1,2-shift where the R group migrates from the carbonyl carbon to the adjacent nitrogen. This rearrangement is driven by the release of stable N₂ gas and formation of the isocyanate."}
